US04837121
2,6-Bis(Hydroxymethyl)-p-Cresol/4-Chlororesorcinol Novolak (1.0:1.05 Mole Ratio)
2,6-Bis(hydroxymethyl)-p-cresol (30 g, 0.178 moles), 4-chlororesorcinol (27.07 g, 0.187 moles) and p-toluenesulfonic acid monohydrate (0.8 g, 0.0042 moles) were heated at 87°-90° C. for four hours in 60 mL of stirred 2-ethoxyethanol. The reaction mixture was diluted with 250 mL 2-ethoxyethanol and added dropwise to 2.4 L of stirred H2O. The solid was collected by filtration, reslurried in 400 mL H2O, and stirred overnight. The polymer was again collected, reslurried, and filtered. The reslurrying operation was repeated twice more. The polymer was vacuum dried to yield 50.33 g. See Tables 1 and 2 for glass transition temperature and alkaline dissolution data. The ortho-, ortho-linkages of the alternating copolymers and the terminal groups were identified by 13C NMR analysis.

reactant | 2,6-Bis(hydroxymethyl)-p-cresol | 0.178 moles, 30 g | OCC1=CC(=CC(=C1O)CO)C | C9H12O3
reactant | 4-chlororesorcinol | 0.187 moles, 27.07 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | p-toluenesulfonic acid monohydrate | 0.0042 moles, 0.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | H2O | 2.4 L | O | H2O
solvent | 2-ethoxyethanol | 60 mL | C(C)OCCO | C4H10O2
solvent | 2-ethoxyethanol | 250 mL | C(C)OCCO | C4H10O2
product | 2,6-Bis(Hydroxymethyl)-p-Cresol 4-Chlororesorcinol | OCC1=CC(=CC(=C1O)CO)C.ClC1=C(C=C(O)C=C1)O | InChI=1S/C9H12O3.C6H5ClO2/c1-6-2-7(4-10)9(12)8(3-6)5-11;7-5-2-1-4(8)3-6(5)9/h2-3,10-12H,4-5H2,1H3;1-3,8-9H
